US07790733B2
d) 6-Chloro-8-methoxy-4,5-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one
n-Butyl lithium (1.6M in hexane, 5.1 ml, 8.1 mmol) was added dropwise under nitrogen at −78° C. to a solution of (2-bromo-4-chloro-6-methoxy-3-methyl-phenyl)-carbamic acid tert-butyl ester (1.3 g, 3.7 mmol) in THF (22 ml). The reaction was stirred for 15 minutes at −78° C., and acetaldehyde (480 ul, 8.4 mmol) was added. The reaction was warmed overnight to r.t. Saturated aqueous ammonium chloride solution (10 ml) was added, the reaction was diluted with water and extracted twice with diethyl ether. The combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was treated with heptane and little methylene chloride. The title compound was filtered off as a yellow solid. The filtrate was purified by column chromatography (silica gel, heptane/ethyl acetate=1/1) to yield another batch of product, which gave a combined yield of 708 mg (79%).

reactant | n-Butyl lithium | 8.1 mmol, 1.6M, 5.1 ml | C(CCC)[Li]
reactant | (2-bromo-4-chloro-6-methoxy-3-methyl-phenyl)-carbamic acid tert-butyl ester | 3.7 mmol, 1.3 g | C(C)(C)(C)OC(NC1=C(C(=C(C=C1OC)Cl)C)Br)=O | C13H17BrClNO3
reactant | acetaldehyde | 8.4 mmol, 480 ul | C(C)=O | C2H4O
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | THF | 22 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-Chloro-8-methoxy-4,5-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | ClC1=C(C2=C(NC(OC2C)=O)C(=C1)OC)C | C11H12ClNO3
